US07741316B2
(RS)-2-{1-[Bis(4-chlorophenyl)methyl]-azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(3-dimethyl-aminopropyl)acetamide may be prepared in the following manner: 0.015 cm3 of N,N-dimethylpropane-1,3-diamine, 29 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.028 cm3 of triethylamine and 1.5 mg of hydroxybenzotriazole hydrate are successively added to a solution of 50 mg of (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride in 2 cm3 of anhydrous dichloromethane, at a temperature in the region of 20° C. The solution obtained is stirred at a temperature in the region of 20° C. for about 12 hours. The reaction medium is deposited on a Varian cartridge (of 12 mm in diameter) filled with 4 cm3 of silica (0.060-0.200 mm) conditioned with dichloromethane with the aid of a vacuum apparatus, eluting with dichloromethane between 0 and 6 cm3 and then with a dichloromethane-methanol (95-5 by volume) mixture. The fractions containing only the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 33 mg [lacuna] (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(3-dimethylamino-propyl)acetamide are thus obtained in the form of white crystals [1H NMR spectrum (300 MHz, CDCl3, with addition of a few drops of CD3COOD d4, δ in ppm): 1.91 (mt: 2H); 2.71 (s: 6H); 2.95 (mt: 2H); from 3.15 to 3.40 (mt 2H); from 3.40 to 3.60 (mt: 1H); from 3.60 to 3.80 (mt: 2H); 4.00 (mt: 2H); 4.28 (d, J=10.5 Hz: 1H); 5.22 (s 1H); 6.68 (tt, J=9 and 2.5 Hz: 1H); 6.90 (mt: 2H); 7.33 (mt: 4H); 7.46 (d, J=8 Hz: 4H)].

reactant | N,N-dimethylpropane-1,3-diamine | 0.015 cm3 | CN(CCCN)C | C5H14N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 29 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 1.5 mg | O.OC1=CC=CC=2NN=NC21
reactant | (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride | 50 mg | Cl.ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)O)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 0.028 cm3 | C(C)N(CC)CC | C6H15N
product | (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(3-dimethylamino-propyl)acetamide | 33 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)NCCCN(C)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C29H31Cl2F2N3O
